US09127013B2
Step A3. Preparation of (2R,4R)-tert-butyl 2-(3-fluorophenyl)-4-hydroxypyrrolidine-1-carboxylate
To a mixture of (3R,5R)-5-(3-fluorophenyl)pyrrolidin-3-ol (3.4 g, 18.8 mmol), di-tert-butyl dicarbonate (4.91 g, 22.5 mmol), and PS-DMAP (2.29 g, 18.8 mmol) were added 100 mL DCM and 50 mL THF, and the reaction was left to stand for one week with periodic sonication treatment. The mixture was filtered, concentrated, and purified by silica column chromatography, eluting with 2-10% MeOH/DCM to yield the pure product (4 g, 76% yield).

reactant | (3R,5R)-5-(3-fluorophenyl)pyrrolidin-3-ol | 18.8 mmol, 3.4 g | FC=1C=C(C=CC1)[C@H]1C[C@H](CN1)O | C10H12FNO
reactant | di-tert-butyl dicarbonate | 22.5 mmol, 4.91 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 18.8 mmol, 2.29 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (2R,4R)-tert-butyl 2-(3-fluorophenyl)-4-hydroxypyrrolidine-1-carboxylate | 4 g, 76% yield | FC=1C=C(C=CC1)[C@@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C15H20FNO3
